Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
nephrolithiasis
flank pain
 
Major Surgical or Invasive Procedure:
s/p successful L stent placement 

 
History of Present Illness:
Patient is a ___ male with a history of CML stable on
Gleevec, DM, CAD, ___ open radical prostatectomy who presented to
___ with ___ days of left flank pain. He was found to have
an obstructing left proximal ureteral stone as well as a few
nonobstructing stones in the kidney. His urine is not infected
based on the UA. He has not had fevers at home. His pain is well
controlled on pain medications in the ED, but he has a 
persistent
___ with a creatinine currently at 1.8. 

The patient has not had kidney stones in the past. He has had 
the
prostatectomy but not other GU operations. He reports being
stable on his Gleevec treatments. 
 
Past Medical History:
s/p OPEN RETROPUBIC PROSTATECTOMY                                
   
ABNORMAL CHEST COMPUTERIZED TOMOGRAPHY                          
AODM                                                            
ERECTILE DYSFUNCTION                                            
HYPERCHOLESTEROLEMIA                                            
HYPERTENSION                                                    
MYOCARDIAL INFARCTION                                           
CHRONIC MYELOGENOUS LEUKEMIA                                    
 
Social History:
___
Family History:
Relative Status   Age Problem              Onset Comments       
Other                 ADULT ONSET DIABETES       (M,PGF)        
                      MELLITUS                   ICD-250.00     

 
Physical Exam:
Gen: No acute distress, alert & oriented
HEENT: Extraocular movements intact, face symmetric
CHEST: Warm and well-perfused
BACK: Non-labored breathing, very mild left CVA tenderness 
persists
ABD: Soft, non-tender, non-distended, no guarding or rebound
EXT: Moves all extremities well
PSY: Appropriately interactive
 
Pertinent Results:
___ 06:10AM BLOOD WBC-6.2 RBC-3.68* Hgb-11.7* Hct-33.6* 
MCV-91 MCH-31.8 MCHC-34.8 RDW-12.7 RDWSD-42.3 Plt Ct-93*
___ 11:55PM BLOOD WBC-9.1 RBC-4.32* Hgb-13.4* Hct-39.8* 
MCV-92 MCH-31.0 MCHC-33.7 RDW-12.7 RDWSD-43.3 Plt ___
___ 11:55PM BLOOD Neuts-69.0 Lymphs-17.6* Monos-11.4 
Eos-1.3 Baso-0.4 Im ___ AbsNeut-6.25*# AbsLymp-1.60 
AbsMono-1.03* AbsEos-0.12 AbsBaso-0.04

___ 11:55PM BLOOD ___ PTT-27.6 ___

___ 06:45AM BLOOD Glucose-133* UreaN-20 Creat-1.3* Na-145 
K-4.2 Cl-105 HCO3-27 AnGap-13
___ 06:10AM BLOOD Glucose-126* UreaN-23* Creat-1.8* Na-141 
K-3.8 Cl-103 HCO3-24 AnGap-14
___ 11:55PM BLOOD Glucose-138* UreaN-24* Creat-1.8* Na-141 
K-3.7 Cl-100 HCO3-25 AnGap-16

___ 12:08AM BLOOD Lactate-1.4

___ 01:40AM URINE Color-Straw Appear-Clear Sp ___
___ 01:40AM URINE Blood-TR* Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-40* Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 01:40AM URINE RBC-3* WBC-1 Bacteri-NONE Yeast-NONE 
Epi-0

___ 11:21PM URINE Color-Straw Appear-Clear Sp ___
___ 11:21PM URINE Blood-TR* Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-40* Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 11:21PM URINE RBC-4* WBC-<1 Bacteri-NONE Yeast-NONE 
Epi-0

___ URINE URINE CULTURE-PENDING INPATIENT 
___ URINE URINE CULTURE-FINAL EMERGENCY WARD 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
EMERGENCY WARD 
___ URINE URINE CULTURE-FINAL 

 
Brief Hospital Course:
Mr. ___ was admitted to Dr. ___ service for 
nephrolithiasis management with a known left obstructing stone 
and acute kidney injury.  He was admitted to the general 
surgical floor and overnight treated for pain, hydrated and 
optimized for surgical intervention. On HD2 he was taken to the 
operative theatre and underwent urgent (as an add-on) 
cystoscopy, left retrograde ureteral pyelogram, left stone 
manipulation, left double-J stent placement. He tolerated the 
procedure well and recovered in the PACU before transfer to the 
general surgical floor. See the dictated operative note for full 
details. Overnight, the patient was hydrated with intravenous 
fluids and received appropriate perioperative prophylactic 
antibiotics. On POD1, he was voiding well without complaint and 
confident about returning home. At discharge on POD1, patient’s 
pain was controlled with oral pain medications, tolerating 
regular diet, ambulating without assistance, and voiding without 
difficulty.  He was explicitly advised to follow up as directed 
as the indwelling ureteral stent must be removed and or 
exchanged and definitive treatment must be addressed. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 5 mg PO DAILY 
2. Fish Oil (Omega 3) 1000 mg PO BID 
3. IMatinib Mesylate 400 mg PO DAILY 
4. Metoprolol Tartrate 25 mg PO BID 
5. MetFORMIN (Glucophage) 1500 mg PO DAILY 
6. amLODIPine 10 mg PO DAILY 
7. Atorvastatin 20 mg PO QPM 
8. Multivitamins 1 TAB PO DAILY 
9. Aspirin 81 mg PO DAILY 
10. Hydrochlorothiazide 12.5 mg PO DAILY 
11. Ascorbic Acid ___ mg PO BID 
12. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID  
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*30 Capsule Refills:*0 
3.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - Mild 
RX *oxycodone [Oxaydo] 5 mg 1 tablet(s) by mouth q8 hr Disp #*8 
Tablet Refills:*0 
4.  Tamsulosin 0.4 mg PO QHS stent pain  
RX *tamsulosin 0.4 mg 1 capsule(s) by mouth daily Disp #*20 
Capsule Refills:*0 
5.  amLODIPine 10 mg PO DAILY  
6.  Ascorbic Acid ___ mg PO BID  
7.  Aspirin 81 mg PO DAILY  
8.  Atorvastatin 20 mg PO QPM  
9.  Fish Oil (Omega 3) 1000 mg PO BID  
10.  Hydrochlorothiazide 12.5 mg PO DAILY  
11.  IMatinib Mesylate 400 mg PO DAILY  
12.  Lisinopril 5 mg PO DAILY  
13.  MetFORMIN (Glucophage) 1500 mg PO DAILY  
14.  Metoprolol Tartrate 25 mg PO BID  
15.  Multivitamins 1 TAB PO DAILY  
16.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
NEPHROLITHIASIS, OBSTRUCTING
ACUTE KIDNEY INJURY
HYDRONEPHROSIS
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-You can expect to see occasional blood in your urine and to 
possibly experience some urgency and frequency over the next 
month;  this may be related to the passage of stone fragments or 
the indwelling ureteral stent (if there is one).

-The kidney stone may or may not have been removed AND/or there 
may fragments/others still in the process of passing.

-You may experience some pain associated with spasm of your 
ureter.; This is normal. Take the narcotic pain medication as 
prescribed if additional pain relief is needed.

-Ureteral stents MUST be removed or exchanged and therefore it 
is IMPERATIVE that you follow-up as directed. 

-Do not lift anything heavier than a phone book (10 pounds) 

-You may continue to periodically see small amounts of blood in 
your urine--this is normal and will gradually improve

-Resume your pre-admission/home medications EXCEPT as noted. You 
should ALWAYS call to inform, review and discuss any medication 
changes and your post-operative course with your primary care 
doctor.  HOLD ASPIRIN and aspirin containing products for one 
week unless otherwise advised.

For pain control, try TYLENOL FIRST, and then take the narcotic 
pain medication as prescribed if additional pain relief is 
needed.

-You may be given “prescriptions” for a stool softener and/or a 
gentle laxative. These are  over-the-counter medications that 
may be “health care spending account reimbursable.” 

-Colace (docusate sodium) may have been prescribed to avoid 
post-surgical constipation or constipation related to use of 
narcotic pain medications. Discontinue if loose stool or 
diarrhea develops. Colace is a stool-softener, NOT a laxative.

-Senokot (or any gentle laxative) may have been prescribed to 
further minimize your risk of constipation. 

-Do not eat constipating foods for ___ weeks, drink plenty of 
fluids to keep hydrated
 
Followup Instructions:
___